US04931436
9-Chloro-5,11-dihydro-11-[[3-[2-(1-pyrrolidinyl)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 1 from 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one and 3-[2-(1-pyrrolidinyl)ethyl]piperidine in a yield of 42% of theory. Colourless crystals, m.p. 136°-139° C., Rf 0.25 (Merck DC ready made TLC plates, silica gel 60 F254 ; eluant: dichloromethane/methanol/conc. ammonia 90/10/1, v/v/v).

reactant | 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(=O)Cl)N=CC=C3)=O)C=C1 | C13H7Cl2N3O2
reactant | 3-[2-(1-pyrrolidinyl)ethyl]piperidine | N1(CCCC1)CCC1CNCCC1 | C11H22N2
solvent | dichloromethane methanol | ClCCl.CO
product | 9-Chloro-5,11-dihydro-11-[[3-[2-(1-pyrrolidinyl)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 42% | ClC1=CC2=C(C(NC3=C(N2C(=O)N2CC(CCC2)CCN2CCCC2)N=CC=C3)=O)C=C1 | C24H28ClN5O2
